US07332495B2
IV-16 N1-benzyl-N4-(4-aminophenacyl)piperazine trihydrochloride
N1-benzyl-N4-(4-nitrophenacyl)piperazine dihydrochloride (IV-9) (2 mmol) was reduced by reductive iron in a procedure similar to Example 12 to give compound (IV-16), yield 60%, mp 286-288° C. M+ 309.

reactant | N1-benzyl-N4-(4-nitrophenacyl)piperazine dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)N1CCN(CC1)CC(=O)C1=CC=C(C=C1)[N+](=O)[O-]
catalyst | iron | [Fe] | Fe
product | N1-benzyl-N4-(4-aminophenacyl)piperazine trihydrochloride | yield 60% | Cl.Cl.Cl.C(C1=CC=CC=C1)N1CCN(CC1)CC(=O)C1=CC=C(C=C1)N | InChI=1S/C19H23N3O.3ClH/c20-18-8-6-17(7-9-18)19(23)15-22-12-10-21(11-13-22)14-16-4-2-1-3-5-16;;;/h1-9H,10-15,20H2;3*1H
